US05538960
(E)-17β-(3-Phenylguanidino)iminomethyl-5β-androstane-3β,14β-diol (I-ah)
To a solution of 0.83 g of 3-phenyl-1-aminoguanidine hydroiodide (prepared following the procedure described in Houben-Weil, Metoden der Organischen Chemie, Band VIII, page 183) in 10 ml of water and 5 ml of dioxane a solution of 0.64 g of 3β,14β-dihydroxy-5β-androstane-17β-carboxaldehyde (Boutagy J. and Thomas R., Aust. J. Chem., 1971, 24, 2723) in 5 ml of dioxane was added dropwise at room temperature. After 2 hrs, the solution was evaporated to dryness under reduced pressure. The crude product was purified by flash-chromatography (SiO2) using chloroform/methanol/28% ammonium hydroxide 89/10/1 as eluant; the fractions containing the title compound were collected and evaporated to dryness. The residue was ground with ethanol to give 0.20 g of the title compound (I-ah) as a white solid.

reactant | 3-phenyl-1-aminoguanidine hydroiodide | 0.83 g | I.C1(=CC=CC=C1)NC(NN)=N
reactant | 3β,14β-dihydroxy-5β-androstane-17β-carboxaldehyde | 0.64 g | O[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C=O)O | C20H32O3
solvent | water | 10 ml | O | H2O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | (E)-17β-(3-Phenylguanidino)iminomethyl-5β-androstane-3β,14β-diol | 0.20 g | C1(=CC=CC=C1)NC(N\N=C\[C@@H]1[C@]2(C)[C@](CC1)([C@@H]1CC[C@@H]3C[C@H](CC[C@]3(C)[C@H]1CC2)O)O)=N | C27H40N4O2
